US08754095B2
4-Bromo-N-(tetrahydro-pyran-4-yl)benzamide
The title compound was prepared in substantially the same way as intermediate (iv) by coupling of tetrahydropyran-4-yl amine with 4-bromobenzoic acid to give 0.65 g (100% yield) as white solid.

reactant | tetrahydropyran-4-yl amine | O1CCC(CC1)N | C5H11NO
reactant | 4-bromobenzoic acid | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
product | 4-Bromo-N-(tetrahydro-pyran-4-yl)benzamide | 100% yield | BrC1=CC=C(C(=O)NC2CCOCC2)C=C1 | C12H14BrNO2
